US04743685
(D) 2-[(2-Oxo-1-imidazolidinyl)methyl]-5-(phenylmethoxy)-1-(phenylmethyl)-4(1H)-pyridinone
A solution of 7.29 g (0.13 mol) of potassium hydroxide in 500 ml of ethanol was added dropwise to a mixture of 60.8 g (0.13 mol) of 2-[[[[(2-chloroethyl)amino]carbonyl]amino]methyl]-5-(phenylmethoxy)-2-(phenylmethyl)-4(1H)-pyridinone and 1.3 l of ethanol. The reaction mixture was heated to reflux for three hours and the solvent evaporated in vacuo. The residue was purified by column chromatography on silica gel using a mixture of ethyl acetate and methanol (7:3) as eluent, yielding 23.1 g of product, which was further purified by recrystallization from acetonitrile, yielding 17.0 g of the title compound, melting point 190° C., dec.

reactant | potassium hydroxide | 0.13 mol, 7.29 g | [OH-].[K+]
reactant | 2-[[[[(2-chloroethyl)amino]carbonyl]amino]methyl]-5-(phenylmethoxy)-2-(phenylmethyl)-4(1H)-pyridinone | 0.13 mol, 60.8 g | ClCCNC(=O)NCC1(NC=C(C(C1)=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C23H26ClN3O3
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethanol | 1.3 l | C(C)O | C2H6O
product | 2-[(2-Oxo-1-imidazolidinyl)methyl]-5-(phenylmethoxy)-1-(phenylmethyl)-4(1H)-pyridinone | 23.1 g | O=C1N(CCN1)CC=1N(C=C(C(C1)=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C23H23N3O3
